US04460680
A mixture of 100 ml of tetrahydrofuran, 20.1 g of vinylbenzylamine, 16.7 g of triethylamine, and 0.1 g of hydroquinone was placed in a reactor, and while cooling with ice water, a solution containing 36.1 g of β-chloroethylsulfonylpropionic acid chloride dissolved in 200 ml of tetrahydrofuran was added dropwise thereto over a period of 30 minutes. The resulting mixture was allowed to stand overnight at room temperature. The reaction mixture was then poured into a solution prepared by diluting 16.5 g of concentrated hydrochloric acid with 1.5 liters of ice water, and a precipitate was collected by filtration. The precipitate was recrystallized from a solvent mixture of 200 ml of ethanol and 200 ml of water to provide 26.8 g of N-vinylbenzyl-β-chloroethylsulfonyl propionic acid amide.

reactant | vinylbenzylamine | 20.1 g | C(=C)NCC1=CC=CC=C1 | C9H11N
reactant | triethylamine | 16.7 g | C(C)N(CC)CC | C6H15N
reactant | β-chloroethylsulfonylpropionic acid chloride | 36.1 g | ClCCS(=O)(=O)C(C(=O)Cl)C | C5H8Cl2O3S
reactant | hydrochloric acid | 16.5 g | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | hydroquinone | 0.1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-vinylbenzyl-β-chloroethylsulfonyl propionic acid amide | 26.8 g, Yield was 57% | C(=C)NC(C(C)(S(=O)(=O)CCCl)CC1=CC=CC=C1)=O | C14H18ClNO3S
